US05556979
Cyclohexane/acetone (4:1) 1H-NMR (CDCl3): δ=6.05-6.43 (m, 2H, H on C-3 and C-4); 5.68 (dd, 1H, H on C-2, J=14 and 6 Hz); 5.17 (dd, 1H, Ha on C-5, J=16 Hz); 5.07 (dd, 1H, Hb on C-5, J=10 Hz); 4.75 (br, 1H, NH); 3.77 (t, 2H, H on C-1); 1.45 ppm (s, 9H).
Initially introduce 83.2 g (1.0 mol) of (E)-1-amino-2,4-pentadiene (title compound from Example B.2.) in 250 ml of MTBE, and add 0.1 g of 4-hydroxyanisole. Subsequently, at an internal temperature of 20°-30° C., add 229.2 g (1.05 mol) of di-tert-butyl dicarbonate dissolved in 250 ml of MTBE dropwise. After addition is complete, stir at room temperature for 20 h. Concentrate the reaction mixture and take up in 1 l of toluene. Add 103.0 g (1.05 mol) of maleic anhydride, and stir at an internal temperature of 60° C. for 24 h. Filter off the precipitate with suction, wash it with toluene and dry it at 50° C. to constant weight.

reactant | (E)-1-amino-2,4-pentadiene | 1.0 mol, 83.2 g | NC\C=C\C=C | C5H9N
reactant | MTBE | 250 ml | CC(C)(C)OC | C5H12O
product | Cyclohexane acetone | C1CCCCC1.CC(=O)C | InChI=1S/C6H12.C3H6O/c1-2-4-6-5-3-1;1-3(2)4/h1-6H2;1-2H3
